US07202363B2
N-(1-acetylpyrrolidin-3-yl)-4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridine-7-carboxamide
4-Amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)-N-pyrrolidin-3-ylthieno[3,2-c]pyridine-7-carboxamide (100 mg, 0.185 mmol) and acetic acid (9.6 μL, 0.168 mmol) were treated according to General Procedure D. MP-carbonate (184 mg, 0.504 mmol) was added and mixture placed on shaker for 20 hours. The mixture was then filtered and solvent removed in vacuo. The product was purified via flash chromatography to furnish the title compound as a off-white powder. (3.2 mg, 0.0051 mmol): LCMS (Conditions b): MH+=583, Rt=2.85 minutes; 1H NMR (DMSO-d6, 400 MHz) δ 9.50 (1H), 8.62 (1H), 8.54 (1H), 8.00 (1H), 7.71 (1H), 7.59 (2H), 7.35 (2H), 7.19 (1H), 7.15 (1H), 7.06 (1H), 6.04 (2H), 4.46–4.56 (1H), 4.04 (3H), 3.91 (3H), 3.91 (3H), 3.80 (1H), 3.61 (1H), 3.50 (1H), 3.39 (1H), 2.00–2.22 (2H), 1.96 (3H).

reactant | 4-Amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)-N-pyrrolidin-3-ylthieno[3,2-c]pyridine-7-carboxamide | 0.185 mmol, 100 mg | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C(=O)NC2CNCC2 | C29H28N6O3S
reactant | acetic acid | 0.168 mmol, 9.6 μL | C(C)(=O)O | C2H4O2
reactant | carbonate | 0.504 mmol, 184 mg | C([O-])([O-])=O
product | N-(1-acetylpyrrolidin-3-yl)-4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridine-7-carboxamide | C(C)(=O)N1CC(CC1)NC(=O)C=1C2=C(C(=NC1)N)C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC | C31H30N6O4S
